US08980911B2
N-[3-(4-Bromo-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide (0.5 g, 1.1 mmol) was taken in a reaction vial, followed by addition of sodium azide (0.286 g, 4.4 mmol), cuprous iodide (0.063 g, 0.3 mmol), N,N′-dimethylethane-1,2-diamine (0.058 g, 0.6 mmol) and dimethylsulfoxide (12 mL). The vial was sealed properly and heated at 110° C. for overnight. The reaction mixture was cooled to room temperature and water (100 mL) was added, extracted with ethyl acetate (3×150 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product was purified by silica gel (100-200 mesh) column chromatography using 2% methanol in dichloromethane to afford pure N-[3-(4-amino-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide (0.23 g, 47%).

reactant | N-[3-(4-Bromo-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide | 1.1 mmol, 0.5 g | BrC1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=C1)Cl)Cl | C18H12BrCl2N3O2
reactant | sodium azide | 4.4 mmol, 0.286 g | [N-]=[N+]=[N-].[Na+]
reactant | N,N′-dimethylethane-1,2-diamine | 0.6 mmol, 0.058 g | CNCCNC | C4H12N2
reactant | dimethylsulfoxide | 12 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | N-[3-(4-amino-2,6-dichlorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-7-yl]cyclopropanecarboxamide | 0.23 g, 47% | NC1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=C1)Cl)Cl | C18H14Cl2N4O2
